US06350907B1
N-(Dimethylaminopropyl)-N′-ethylcarbodiimide (4.21 g, 22.0 mmol) was added to a stirred mixture of (2R)-2-[2-(tert-butoxy)-2-oxoethyl]pent-4-enoic acid (A. L. Castelhano, S. L. Bender, J. G. Deal, S. Homer, T. J. Liak, Z. Yuan, World Patent WO96/16027 (1996)) (3.80 g, 17.8 mmol) and 1-hydroxy-7-azabenzotriazole (2.49 g, 18.3 mmol) in anhydrous dimethylformamide (60 mL) under nitrogen at 4° C. After 1 h, (2S)-amino-3,3-dimethyl-N-[(1R)-1-phenylethyl]butanamide hydrochloride (Preparation 1)(5.10 g, 18.8 mmol) was added, followed by diisopropylethylamine (2.42 g, 19.2 mmol). After another 30 min, the mixture was allowed to warm to room temperature. After 17 h at room temperature, the mixture was concentrated under reduced pressure, and partitioned between ethyl acetate (400 mL) and water (400 mL). The aqueous layer was saturated with sodium bicarbonate and extracted with ethyl acetate (2×100 mL). The combined organic solutions were concentrated under reduced pressure, the residue was dissolved in ether (500 mL) and washed with water (3×200 mL), dried (MgSO4), and concentrated under reduced pressure. The residue was triturated with pentane, filtered and dried to give tert-butyl (3R)-3-({[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino}carbonyl)hex-5-enoate (6.70 g, 88%), as a colourless solid.

reactant | N-(Dimethylaminopropyl)-N′-ethylcarbodiimide | 22.0 mmol, 4.21 g | CN(C)CCCN=C=NCC | C8H17N3
reactant | (2R)-2-[2-(tert-butoxy)-2-oxoethyl]pent-4-enoic acid | C(C)(C)(C)OC(C[C@H](C(=O)O)CC=C)=O | C11H18O4
reactant | 1-hydroxy-7-azabenzotriazole | 18.3 mmol, 2.49 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | (2S)-amino-3,3-dimethyl-N-[(1R)-1-phenylethyl]butanamide hydrochloride | 18.8 mmol, 5.10 g | Cl.N[C@H](C(=O)N[C@H](C)C1=CC=CC=C1)C(C)(C)C
reactant | diisopropylethylamine | 19.2 mmol, 2.42 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | tert-butyl (3R)-3-({[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino}carbonyl)hex-5-enoate | 6.70 g, 88% | CC([C@@H](C(=O)N[C@H](C)C1=CC=CC=C1)NC(=O)[C@@H](CC(=O)OC(C)(C)C)CC=C)(C)C | C25H38N2O4
